US07323496B2
Synthesis of 3-benzo[1,3]dioxol-5-yl-2-{4-[4-(2-carbamoyl-ethyl)-phenoxy]-phenyl}-N,N-dimethyl-acrylamide (72)
To a solution of 3-benzo[1,3]dioxol-5-yl-2-{4-[4-(2-carbamoylethyl)-phenoxy]-phenyl}-acrylic acid, 78, (2.00 g, 4.6 mmol) in DMF (10 mL) triethylamine (0.96 mL, 6.9 mmol) and BOP reagent (2.21 g, 5.0 mmol) were added and stirred at room temperature for 15 min. Dimethylamine (2.0 M in THF, 6.90 mL, 1.8 mmol) was added and stirred for another 15 min. Reaction mixture was poured into ice cold water (100 mL) and extracted with ethyl acetate (4×50 mL). Combined organic layer was washed with saturated aqueous sodium bicarbonate solution (30 mL), water (3×50 mL), brine (2×50 mL), dried on anhydrous magnesium sulfate. Crude product was purified by silica gel chromatography and product was eluted with chloroform-methanol (19:1). Yield: 1.91 g (90.0%).

reactant | 3-benzo[1,3]dioxol-5-yl-2-{4-[4-(2-carbamoylethyl)-phenoxy]-phenyl}-acrylic acid | O1COC2=C1C=CC(=C2)C=C(C(=O)O)C2=CC=C(C=C2)OC2=CC=C(C=C2)CCC(N)=O | C25H21NO6
reactant | DMF | 6.9 mmol, 10 mL | CN(C)C=O | C3H7NO
reactant | BOP reagent | 5.0 mmol, 2.21 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Dimethylamine | 1.8 mmol, 2.0 M, 6.90 mL | CNC | C2H7N
product | 3-benzo[1,3]dioxol-5-yl-2-{4-[4-(2-carbamoyl-ethyl)-phenoxy]-phenyl}-N,N-dimethyl-acrylamide | O1COC2=C1C=CC(=C2)C=C(C(=O)N(C)C)C2=CC=C(C=C2)OC2=CC=C(C=C2)CCC(N)=O | C27H26N2O5
